US09315602B2
(ii) Synthesis of Benzyl(p-chlorophenyl)methylene(cyclopentadienyl)(2,7-diphenyl-3,6-di-tert-butylfluorene)
Under nitrogen flow, 200 mL of anhydrous THF was added to 4.3 g (10 mmol) of 3,6-di-tert-butyl-2,7-diphenylfluorene, they were stirred for dissolution and cooled in an ice bath, and then 11 mL (6.74 mmol) of a solution of 1.63-M n-butyllithium in hexane was added thereto. The product was stirred at room temperature for 1.5 hours, the obtained deep red solution was subsequently cooled in a dry ice-methanol bath, and a solution of 3.34 g (12 mmol) of 6-benzyl-6-(p-chlorophenyl)fulvene in THF (50 mL) was added thereto. The product was stirred for four hours while the temperature was gradually increased to room temperature, and then dilute hydrochloric acid was added to the resulting solution in an ice bath to terminate the reaction. Diethyl ether was added thereto for separation, the water layer was subjected to extraction twice with diethyl ether, and then the extract was combined with the organic layer. The resulting organic layer was washed twice with an aqueous solution of saturated sodium hydrogen carbonate, further twice with water, and further once with a saturated salt solution and then dehydrated with anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography to produce an objective (amount: 5.2 g and yield: 73%).

reactant | 3,6-di-tert-butyl-2,7-diphenylfluorene | 10 mmol, 4.3 g | C(C)(C)(C)C=1C(=CC=2CC3=CC(=C(C=C3C2C1)C(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C33H34
reactant | 6-benzyl-6-(p-chlorophenyl)fulvene | 12 mmol, 3.34 g | C(C1=CC=CC=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)Cl | C19H15Cl
reactant | hydrochloric acid | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Benzyl(p-chlorophenyl)methylene(cyclopentadienyl)(2,7-diphenyl-3,6-di-tert-butylfluorene) | yield: 73% | C(C1=CC=CC=C1)C(=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1)C1=CC=CC=C1)C(C)(C)C)C1=CC=C(C=C1)Cl | C52H47Cl
